US06455585B1
Synthesis of 3-(2-Dimethylaminomethyl-1-hydroxycyclohexyl)-phenyl 2-(4-Isobutyl-phenyl)-propionate
0.76 g (4.8 mmol) of carbonyldiimidazol were added to 1 g (4.8 mmol) of (±)-Ibuprofen in 60 ml of dry THF. The reaction was kept at room temperature for 2 h, after which a 60% solution of 0.59 g (2.4 mmol) of (RR,SS)-3-(2-dimethylaminomethyl-1-hydroxy-cyclohexyl)-phenol previously treated with 0.1 g (2.5 mmol) of sodium hydride in mineral oil was added.

reactant | carbonyldiimidazol | 4.8 mmol, 0.76 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (±)-Ibuprofen | 4.8 mmol, 1 g | OC(=O)C(C)C1=CC=C(CC(C)C)C=C1 | C13H18O2
reactant | sodium hydride | 2.5 mmol, 0.1 g | [H-].[Na+]
reactant | THF | 60 ml | C1CCOC1 | C4H8O
product | 3-(2-Dimethylaminomethyl-1-hydroxycyclohexyl)-phenyl 2-(4-Isobutyl-phenyl)-propionate | C(C(C)C)C1=CC=C(C=C1)C(C(=O)OC1=CC(=CC=C1)C1(C(CCCC1)CN(C)C)O)C | C28H39NO3
